US07674789B2
10d) N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide
N-{3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophene-carboxamide (0.052 g, 0.1 mmol) was dissolved in a mixture of CH2Cl2 (10 mL) and DMF (0.5 mL). Then 3-chloroperoxybenzoic acid (50-60%) (0.03 g, ˜0.1 mmol) was added and the mixture stirred for 45 min at room temperature. Solvent was pumped off in vacuo to give the title compound plus a small amount of the corresponding sulfone. The mixture was used without further purification. LC-MS m/z 540 (M+H)+, 1.76 min (ret. time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophene-carboxamide | 0.1 mmol, 0.052 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)SC)=O | C25H19F2N5O2S2
reactant | 3-chloroperoxybenzoic acid | ˜0.1 mmol, 0.03 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)S(=O)C)=O | C25H19F2N5O3S2
